US04100167
A mixture of cyanoacetic acid (4.3 g, 0.5 mole), phosphorous acid (8.2 g, 0.1 mole), ISOPAR-M (20 g), and the wetting agents (0.25 g each) was heated at 165° C for 2 hours. The product was worked up with acetone to get yellow crystals of 1-amino-1,1-diphosphono-2-carboxy ethane, m.p. 255° C (decomposition), 55%, associated with traces of impurities.

reactant | cyanoacetic acid | 0.5 mole, 4.3 g | C(#N)CC(=O)O | C3H3NO2
reactant | phosphorous acid | 0.1 mole, 8.2 g | P(O)(O)O | H3O3P
solvent | acetone | CC(=O)C | C3H6O
product | 1-amino-1,1-diphosphono-2-carboxy ethane | NC(CC(=O)O)(P(=O)(O)O)P(=O)(O)O | C3H9NO8P2
